US06414148B1
Diethyl azodicarboxylate (283 μl, 1.8 mmol) was added dropwise to a mixture of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (218 mg, 0.6 mmol), (prepared as described for the starting material in Example 48), triphenylphosphine (95 μl, 0.84 mmol) and 1-(2-hydroxyethyl)-2-pyrrolidinone (95 μl, 0.84 mmol) in methylene chloride (8 ml) under nitrogen. The mixture was stirred for 4 hours at ambient temperature, and then purified by pouring it directly on to a column of silica and eluting with methylene chloride/acetonitrile/methanol (60/32.5/7.5). The purified product was triturated with ether and collected by filtration. The solid was dissolved in methylene chloride/methanol (1/1) and 2M ethereal hydrogen chloride (1 ml) was added. The volatiles were removed by evaporation, the residue was triturated with ether, collected by filtration and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(2-oxopyrrolidin-1-yl)ethoxy)quinazoline hydrochloride (182 mg, 60%).

reactant | Diethyl azodicarboxylate | 1.8 mmol, 283 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.6 mmol, 218 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 0.84 mmol, 95 μl | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxyethyl)-2-pyrrolidinone | 0.84 mmol, 95 μl | OCCN1C(CCC1)=O | C6H11NO2
reactant | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(2-oxopyrrolidin-1-yl)ethoxy)quinazoline hydrochloride | 182 mg, 60% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C(CCC2)=O)C=C1)F | InChI=1S/C21H20BrFN4O3.ClH/c1-29-18-10-14-17(11-19(18)30-8-7-27-6-2-3-20(27)28)24-12-25-21(14)26-16-5-4-13(22)9-15(16)23;/h4-5,9-12H,2-3,6-8H2,1H3,(H,24,25,26);1H
